US07148234B2
STEP 1. 1,5-dichloro-2-(methylsulfinyl)-4-nitrobenzene
A mixture of (2,4-dichloro-phenyl)-methyl sulfone (Ono Mitsunori, Nakamura Yoshisada, Sato Shingo, Itoh Isamu, Chem. Lett, 1988, 395–398.; 3.33 g, 16 mmol) and sulfuric acid (conc, 14 ml) was added a mixture of sulfuric acid (4 ml) and nitric acid (fuming, 2 ml) dropwise under ice-water bath. The mixture was stirred at 55° C. for 1 h. The mixture was poured onto ice-water and neutralized with 6N aqueous NaOH and then extracted with dichloromethane. The organic layer was washed with brine and dried (Na2SO4). The solvent was removed under reduced pressure and the residue was purified by flash chromatography eluting with hexane/ethyl acetate (2:1/1:1) to give 3 g (74%) of the title compound as white solids.

reactant | (2,4-dichloro-phenyl)-methyl sulfone | 16 mmol, 3.33 g | ClC1=C(C=CC(=C1)Cl)S(=O)(=O)C | C7H6Cl2O2S
reactant | sulfuric acid | 14 ml | S(O)(O)(=O)=O | H2O4S
reactant | sulfuric acid | 4 ml | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 2 ml | [N+](=O)(O)[O-] | HNO3
reactant | NaOH | 6N | [OH-].[Na+]
product | 1,5-dichloro-2-(methylsulfinyl)-4-nitrobenzene | 3 g, 74% | ClC1=C(C=C(C(=C1)Cl)[N+](=O)[O-])S(=O)C | C7H5Cl2NO3S
